US05196593
Thionyl chloride, 6.0 g (50 mmol) was added to a slurry of 4.0 g (16 mmol) 3-chloro-2-fluoro-5-(trifluoromethyl) benzamide and 15 mL dimethylformamide at 0° C. After stirring for one hour the reaction mixture was diluted with 25 mL pentane and neutralized by dropwise addition of a saturated potassium carbonate solution and filtered. The pentane solution was dried and distilled to yield 3-chloro-2-fluoro-5-(trifluoromethyl) benzonitrile in 71% yield, bp 75°-85° C./20 mm Hg.

reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 3-chloro-2-fluoro-5-(trifluoromethyl) benzamide | 16 mmol, 4.0 g | ClC=1C(=C(C(=O)N)C=C(C1)C(F)(F)F)F | C8H4ClF4NO
reactant | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | pentane | 25 mL | CCCCC | C5H12
product | 3-chloro-2-fluoro-5-(trifluoromethyl) benzonitrile | 71% yield | ClC=1C(=C(C#N)C=C(C1)C(F)(F)F)F | C8H2ClF4N
